US06498169B1
Synthesis of 4-[N-Benzyl-N-[[2-(3,4,5-trimethoxypheny)pyridin-3-yl]-methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (134 mg) and 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed in the same manner as described in Example 9. A free base obtained was converted to a tetrahydrochloride to give the title compound as yellow powder.

reactant | 4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 134 mg | C(C1=CC=CC=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O3
reactant | 3-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Benzyl-N-[[2-(3,4,5-trimethoxypheny)pyridin-3-yl]-methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.C(C1=CC=CC=C1)N(CC=1C(=NC=CC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O6.4ClH/c1-47-36-22-32(23-37(48-2)41(36)51-5)35-21-30(14-18-43-35)26-45-19-15-34(16-20-45)46(27-29-11-8-7-9-12-29)28-31-13-10-17-44-40(31)33-24-38(49-3)42(52-6)39(25-33)50-4;;;;/h7-14,17-18,21-25,34H,15-16,19-20,26-28H2,1-6H3;4*1H
